US08975254B2
b) 5-Oxo-1-phenyl-2,5-dihydro-1H-pyrazole-3-carboxylic acid
Methyl 5-oxo-1-phenyl-2,5-dihydro-1H-pyrazole-3-carboxylate (0.35 g; 1.60 mmol) in 5 ml of 2M NaOH solution was heated at 60° C. for 2 h after which the reaction mixture was made acidic with 1.5 ml of concentrated HCl which caused the product to form a yellow precipitate. Filtering gave 0.18 g of the product. 1H-NMR (400 MHz; d6-DMSO): δ 5.97 (s, 1H), 7.33-7.37 (m, 1H), 7.48-7.52 (m, 2H), 7.74 (m, 2H).

reactant | Methyl 5-oxo-1-phenyl-2,5-dihydro-1H-pyrazole-3-carboxylate | 1.60 mmol, 0.35 g | O=C1C=C(NN1C1=CC=CC=C1)C(=O)OC | C11H10N2O3
reactant | HCl | 1.5 ml | Cl | ClH
solvent | NaOH | 2M, 5 ml | [OH-].[Na+]
product | 5-Oxo-1-phenyl-2,5-dihydro-1H-pyrazole-3-carboxylic acid | 0.18 g | O=C1C=C(NN1C1=CC=CC=C1)C(=O)O | C10H8N2O3
